US04354973
8-Chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetamide
A mixture of 2.3 g (6.5 mmole) of 8-chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid ethyl ester and 20 ml of methanolic ammonia (ca 20% v/v) was heated in an autoclave on a steambath overnight. The solvent was removed at reduced pressure to give a light yellow solid. Recrystallization from ethanolhexane gave a white solid, mp 236°-237°.

reactant | 8-chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid ethyl ester | 6.5 mmole, 2.3 g | C(C)OC(CN1C=C2CN=C(C3=C(C2=C1)C=CC(=C3)Cl)C3=CC=CC=C3)=O | C22H19ClN2O2
reactant | ammonia | 20 ml | N | H3N
product | 8-Chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetamide | ClC1=CC2=C(C=3C(CN=C2C2=CC=CC=C2)=CN(C3)CC(=O)N)C=C1 | C20H16ClN3O
